*************************************
*COPYRIGHT 1994, BY AMP INCORPORATED*
**ALL INTERNATIONAL RIGHTS RESERVED**
*************************************
*                       *  AMP Connector Catalog No.
*     STANDARD EDGE     *         82619
*       SERIES 50       *
*                       *
*************************
*  rev 3/1/94
*
*  THE FOLLOWING CARD EDGE SLM IS HEAVILY INFLUNCED BY THE
*  CARD EDGE PADS. THE PAD VALUES INCLUDED ARE DERIVED FROM
*  STANDARD PAD DIMENSIONS AND AN ASSUMPTION OF A GROUND
*  PLANE LOCATED 0.013 INCH UNDER THE PADS IN FR4 WITH Er=4.7
*
*  THE FOLLOWING RLC MODELS ARE APPROPRIATE
*  FOR EDGE SPEEDS OF 750PS OR SLOWER
*
****************** RLC MODELS ********************
*
************
*SRC=SES5M;SES5M;Connectors;Card-Edge;Std. Edge, Median/Row A/B
*SYM=ZPSLM
.SUBCKT SES5M 1  2   3
** load card__|  |
** mother board__|
* AMP Card-Edge Standard Edge Series 50, 82619
* pad elements
R1 1 4 0.001
C4 4 3 0.6PF
L4 4 5 0.7NH
* pad stub
C5 5 3 1.0PF
* connector elements
L5 5 6 3.3NH
C6 6 3 1.1PF
L6 6 7 3.3NH
R7 7 2 0.007
.ENDS SES5M
***********
*
********** TRANSMISSION LINE MODELS **************
*
***********
*SRC=SES5ML;SES5ML;Connectors;Card-Edge;Std. Edge, Median/Row A/B
*SYM=ZPSLM
.SUBCKT SES5ML 1  2   3
**  load card__|  |
**  mother board__|
* AMP Card-Edge Standard Edge Series 50, 82619
R1 1 4 0.008
C4 4 3 1.0PF
T4 4 3 2 3 Z0=77 TD=85PS
.ENDS SES5ML
************
*
*****************************************************
*                       *   AMP Connector Catalog No.
*          ISA          *           82619
*                       *
*************************
*  rev 3/1/94
*
*  THE FOLLOWING CARD EDGE SLM IS HEAVILY INFLUNCED BY THE
*  CARD EDGE PADS. THE PAD VALUES INCLUDED ARE DERIVED FROM
*  STANDARD PAD DIMENSIONS AND AN ASSUMPTION OF A GROUND
*  PLANE LOCATED 0.013 INCH UNDER THE PADS IN FR4 WITH Er=4.7
*
*  THE FOLLOWING RLC MODELS ARE APPROPRIATE
*  FOR EDGE SPEEDS OF 750PS OR SLOWER
*
****************** RLC MODELS ********************
*
************
*SRC=ISAM;ISAM;Connectors;Card-Edge;ISA, Median/Row A/B
*SYM=ZPSLM
.SUBCKT ISAM 1  2   3
** load card_|  |
** mother board_|
* AMP Card-Edge ISA, 82619
* pad elements
R1 1 4 0.001
C4 4 3 0.8PF
L4 4 5 0.5NH
* pad stub
C5 5 3 1.4PF
* connector elements
L5 5 6 4.0NH
C6 6 3 1.2PF
L6 6 7 4.0NH
R7 7 2 0.007
.ENDS ISAM
**********
*
********** TRANSMISSION LINE MODELS **************
*
**********
*SRC=ISAML;ISAML;Connectors;Card-Edge;ISA, Median/Row A/B
*SYM=ZPSLM
.SUBCKT ISAML 1  2   3
** load card__|  |
** mother board__|
* AMP Card-Edge ISA, 82619
R1 1 4 0.008
C4 4 3 2.0PF
T4 4 3 2 3 Z0=82 TD=98PS
.ENDS ISAML
***********
*
*********************************************************
*                           *   AMP Connector Catalog No.
* HIGH SPEED STANDARD EDGE  *           65822
*                           *
*****************************
*  rev 3/1/94
*
*  THE FOLLOWING CARD EDGE SLM IS HEAVILY INFLUNCED BY THE
*  CARD EDGE PADS. THE PAD VALUES INCLUDED ARE DERIVED FROM
*  STANDARD PAD DIMENSIONS AND AN ASSUMPTION OF A GROUND
*  PLANE LOCATED 0.013 INCH UNDER THE PADS IN FR4 WITH Er=4.7
*
*  THE FOLLOWING RLC MODELS ARE APPROPRIATE
*  FOR EDGE SPEEDS OF 750PS OR SLOWER
*
****************** RLC MODELS ********************
*
**********
*SRC=HSCEM;HSCEM;Connectors;Card-Edge;ISA, Median/Row A/B
*SYM=ZPSLM
.SUBCKT HSCEM 1  2   3
** load card__|  |
** mother board__|
* AMP Card-Edge High Speed Stadard Edge, 65822
* pad elements
R1 1 4 0.001
C4 4 3 0.6PF
L4 4 5 0.7NH
* pad stub
C5 5 3 1.0PF
* connector elements
L5 5 6 2.0NH
C6 6 3 1.0PF
L6 6 7 2.0NH
R7 7 2 0.010
.ENDS HSCEM
***********
*
********** TRANSMISSION LINE MODELS **************
*
***********
*SRC=HSCEML;HSCEML;Connectors;Card-Edge;ISA, Median/Row A/B
*SYM=ZPSLM
.SUBCKT HSCEML 1  2   3
** load card__|  |
** mother board__|
* AMP Card-Edge High Speed Stadard Edge, 65822
R1 1 4 0.011
C4 4 3 1.0PF
T4 4 3 2 3 Z0=55 TD=83PS
.ENDS HSCEML
************
*
*****************************************************
*  DUAL READOUT SIMM    *   AMP Connector Catalog No.
*      "DRS"            *           82172
*                       *
*************************
*  rev 3/1/94
*
*  THE FOLLOWING CARD EDGE SLM IS HEAVILY INFLUNCED BY THE
*  CARD EDGE PADS. THE PAD VALUES INCLUDED ARE DERIVED FROM
*  STANDARD PAD DIMENSIONS AND AN ASSUMPTION OF A GROUND
*  PLANE LOCATED 0.013 INCH UNDER THE PADS IN FR4 WITH Er=4.7
*
*  THE FOLLOWING RLC MODELS ARE APPROPRIATE
*  FOR EDGE SPEEDS OF 500PS OR SLOWER
*
****************** RLC MODELS ********************
*
**********
*SRC=DRSM;DRSM;Connectors;Card-Edge;DRS, All Rows
*SYM=ZPSLM
.SUBCKT DRSM 1  2   3
** load card_|  |
** mother board_|
* pad elements
* AMP Card-Edge Dual Ro Simm, 82172
R1 1 4 0.001
C4 4 3 0.9PF
L4 4 5 0.5NH
* connector elements
L5 5 6 1.9NH
C6 6 3 1.7PF
L6 6 7 1.9NH
R7 7 2 0.010
.ENDS DRSM
**********
*
********** TRANSMISSION LINE MODELS **************
*
**********
*SRC=DRSML;DRSML;Connectors;Card-Edge;DRS, All Rows
*SYM=ZPSLM
.SUBCKT DRSML 1  2   3
** load card__|  |
** mother board__|
* AMP Card-Edge Dual Ro Simm, 82172
R1 1 4 0.010
C4 4 3 0.9PF
T4 4 3 2 3 Z0=50 TD=86PS
.ENDS DRSML
***********
*
*********************************************************
*                           *   AMP Connector Catalog No.
* HIGH SPEED STANDARD EDGE  *           65822
*     surface mount         *
*****************************
*  rev 5/3/95
****************** RLC MODELS ********************
*
*  THE FOLLOWING CARD EDGE SLM IS HEAVILY INFLUENCED BY THE
*  CARD EDGE PADS. THE PAD VALUES INCLUDED ARE DERIVED FROM
*  STANDARD PAD DIMENSIONS AND AN ASSUMPTION OF A GROUND
*  PLANE LOCATED 0.013 INCH UNDER THE PADS IN FR4 WITH Er=4.7
*
*  THE FOLLOWING RLC MODELS ARE APPROPRIATE
*  FOR EDGE SPEEDS OF 750PS OR SLOWER
*
***********
*SRC=HSSEM;HSSEM;Connectors;Card-Edge;High Speed, Median values
*SYM=ZPSLM
.SUBCKT HSSEM 1  2   3
*            IN*OUT*REF
** load card__|  |
** mother board__|
* AMP Card-Edge High Speed Standard Edge, surface mount, 65822
* pad elements
R1 1 4 0.001
C4 4 3 0.6PF
L4 4 5 0.7NH
* pad stub
C5 5 3 1.0PF
* connector elements
L5 5 6 2.9NH
C6 6 3 1.2PF
L6 6 7 2.9NH
R7 7 2 0.010
.ENDS HSSEM
***********
*
********** TRANSMISSION LINE MODELS **************
*
************
*SRC=HSSEML;HSSEML;Connectors;Card-Edge;High Speed, Median values
*SYM=ZPSLM
.SUBCKT HSSEML 1  2   3
*             IN*OUT*REF
**  load card__|  |
**  mother board__|
* AMP Card-Edge High Speed Standard Edge, surface mount, 65822
R1 1 4 0.011
C4 4 3 1.0PF
T4 4 3 2 3 Z0=60 TD=108PS
.ENDS HSSEML
************
*****************************************************
* MEMORY CARD CONNECTOR *   AMP Connector Catalog No.
*      "M64"            *
*                       *
*************************
*  rev 5/3/95
****************** RLC MODELS ********************
*
*  THE FOLLOWING CARD EDGE SLM IS HEAVILY INFLUNCED BY THE
*  CARD EDGE PADS. THE MODEL VALUES USED HEREIN ASSUME THERE
*  IS NO GROUND PLANE UNDER THE PADS.
*
*  THE FOLLOWING RLC MODELS ARE APPROPRIATE
*  FOR EDGE SPEEDS OF 250PS OR SLOWER
*
***********
*SRC=M64M;M64M;Connectors;Card-Edge;Memory Card, Median
*SYM=ZPSLM
.SUBCKT M64M 1  2   3
*            IN*OUT*REF
* AMP Card-Edge Memory Card connector
R1 1 4 0.003
L4 4 5 1.3NH
C5 5 3 0.7PF
L5 5 6 1.3NH
R6 6 2 0.003
.ENDS  M64M
***********
*SRC=M64A;M64A;Connectors;Card-Edge;Memory Card, Row A
*SYM=ZPSLM
.SUBCKT M64A 1  2   3
*             IN*OUT*REF
* AMP Card-Edge Memory Card connector
R1 1 4 0.004
L4 4 5 1.4NH
C5 5 3 0.7PF
L5 5 6 1.4NH
R6 6 2 0.004
.ENDS  M64A
***********
*SRC=M64B;M64B;Connectors;Card-Edge;Memory Card, Row B
*SYM=ZPSLM
.SUBCKT M64B 1  2   3
*            IN*OUT*REF
* AMP Card-Edge Memory Card connector
R1 1 4 0.003
L4 4 5 1.1NH
C5 5 3 0.7PF
L5 5 6 1.1NH
R6 6 2 0.003
.ENDS  M64B
***********
*SRC=M64C;M64C;Connectors;Card-Edge;Memory Card, Row C
*SYM=ZPSLM
.SUBCKT M64C 1  2   3
*            IN*OUT*REF
* AMP Card-Edge Memory Card connector
R1 1 4 0.003
L4 4 5 1.1NH
C5 5 3 0.7PF
L5 5 6 1.1NH
R6 6 2 0.003
.ENDS  M64C
***********
*SRC=M64D;M64D;Connectors;Card-Edge;Memory Card, Row D
*SYM=ZPSLM
.SUBCKT M64D 1  2   3
*             IN*OUT*REF
* AMP Card-Edge Memory Card connector
R1 1 4 0.004
L4 4 5 1.4NH
C5 5 3 0.7PF
L5 5 6 1.4NH
R6 6 2 0.004
.ENDS  M64D
***********
*
********** TRANSMISSION LINE MODELS **************
*
************
*SRC=M64ML;M64ML;Connectors;Card-Edge;Memory Card, Median
*SYM=ZPSLM
.SUBCKT M64ML 1  2   3
*             IN*OUT*REF
* AMP Card-Edge Memory Card connector
R1 1 4 0.007
T4 4 3 2 3 Z0=62 TD=40PS
.ENDS  M64ML
************
*SRC=M64AL;M64AL;Connectors;Card-Edge;Memory Card, Row A
*SYM=ZPSLM
.SUBCKT M64AL 1  2   3
*             IN*OUT*REF
* AMP Card-Edge Memory Card connector
R1 1 4 0.007
T4 4 3 2 3 Z0=65 TD=42PS
.ENDS  M64AL
************
*SRC=M64BL;M64BL;Connectors;Card-Edge;Memory Card, Row B
*SYM=ZPSLM
.SUBCKT M64BL 1  2   3
*             IN*OUT*REF
* AMP Card-Edge Memory Card connector
R1 1 4 0.006
T4 4 3 2 3 Z0=58 TD=37PS
.ENDS  M64BL
************
*SRC=M64CL;M64CL;Connectors;Card-Edge;Memory Card, Row C
*SYM=ZPSLM
.SUBCKT M64CL 1  2   3
*             IN*OUT*REF
* AMP Card-Edge Memory Card connector
R1 1 4 0.006
T4 4 3 2 3 Z0=58 TD=37PS
.ENDS  M64CL
************
*SRC=M64DL;M64DL;Connectors;Card-Edge;Memory Card, Row D
*SYM=ZPSLM
.SUBCKT M64DL 1  2   3
*             IN*OUT*REF
* AMP Card-Edge Memory Card connector
R1 1 4 0.007
T4 4 3 2 3 Z0=65 TD=42PS
.ENDS  M64DL
************
*****************************************************
* MEMORY CARD CONNECTOR *   AMP Connector Catalog No.
*   "M64 LOW PROFILE    *
*                       *
*************************
*  rev 5/13/96
*
*  THE FOLLOWING CARD EDGE SLM IS HEAVILY INFLUNCED BY THE
*  CARD EDGE PADS. THE MODEL VALUES USED HEREIN ASSUME THERE
*  IS NO GROUND PLANE UNDER THE PADS.
*
*  THE FOLLOWING RLC MODELS ARE APPROPRIATE
*  FOR EDGE SPEEDS OF 500PS OR SLOWER
*
****************** RLC MODELS ********************
*
************
*SRC=M64LPM;M64LPM;Connectors;Card-Edge;Memory Card, Median
*SYM=ZPSLM
.SUBCKT M64LPM 1  2   3
*             IN*OUT*REF
R1 1 4 0.004
L4 4 5 1.7NH
C5 5 3 0.7PF
L5 5 6 1.7NH
R6 6 2 0.004
.ENDS M64LPM
***********
*SRC=M64LPA;M64LPA;Connectors;Card-Edge;Memory Card, Row A
*SYM=ZPSLM
.SUBCKT M64LPA 1  2   3
*             IN*OUT*REF
R1 1 4 0.003
L4 4 5 1.3NH
C5 5 3 0.6PF
L5 5 6 1.3NH
R6 6 2 0.003
.ENDS M64LPA
***********
*SRC=M64LPB;M64LPB;Connectors;Card-Edge;Memory Card, Row B
*SYM=ZPSLM
.SUBCKT M64LPB 1  2   3
*             IN*OUT*REF
R1 1 4 0.003
L4 4 5 1.5NH
C5 5 3 0.7PF
L5 5 6 1.5NH
R6 6 2 0.003
.ENDS M64LPB
***********
*SRC=M64LPC;M64LPC;Connectors;Card-Edge;Memory Card, Row C
*SYM=ZPSLM
.SUBCKT M64LPC 1  2   3
*             IN*OUT*REF
R1 1 4 0.004
L4 4 5 1.9NH
C5 5 3 0.7PF
L5 5 6 1.9NH
R6 6 2 0.004
.ENDS M64LPC
***********
*SRC=M64LPD;M64LPD;Connectors;Card-Edge;Memory Card, Row D
*SYM=ZPSLM
.SUBCKT M64LPD 1  2   3
*             IN*OUT*REF
R1 1 4 0.004
L4 4 5 2.1NH
C5 5 3 0.7PF
L5 5 6 2.1NH
R6 6 2 0.004
.ENDS M64LPD
***********
*
********** TRANSMISSION LINE MODELS **************
*
***********
*SRC=M64LPML;M64LPML;Connectors;Card-Edge;Memory Card, Median
*SYM=ZPSLM
.SUBCKT M64LPML 1  2   3
*             IN*OUT*REF
R1 1 4 0.008
T4 4 3 2 3 Z0=69 TD=48PS
.ENDS M64LPML
************
*SRC=M64LPAL;M64LPAL;Connectors;Card-Edge;Memory Card, Row A
*SYM=ZPSLM
.SUBCKT M64LPAL 1  2   3
*             IN*OUT*REF
R1 1 4 0.006
T4 4 3 2 3 Z0=62 TD=40PS
.ENDS M64LPAL
************
*SRC=M64LPBL;M64LPBL;Connectors;Card-Edge;Memory Card, Row B
*SYM=ZPSLM
.SUBCKT M64LPBL 1  2   3
*             IN*OUT*REF
R1 1 4 0.007
T4 4 3 2 3 Z0=66 TD=44PS
.ENDS M64LPBL
************
*SRC=M64LPCL;M64LPCL;Connectors;Card-Edge;Memory Card, Row C
*SYM=ZPSLM
.SUBCKT M64LPCL 1  2   3
*             IN*OUT*REF
R1 1 4 0.008
T4 4 3 2 3 Z0=72 TD=51PS
.ENDS M64LPCL
************
*SRC=M64LPDL;M64LPDL;Connectors;Card-Edge;Memory Card, Row D
*SYM=ZPSLM
.SUBCKT M64LPDL 1  2   3
*             IN*OUT*REF
R1 1 4 0.009
T4 4 3 2 3 Z0=74 TD=55PS
.ENDS M64LPDL
************
*
*****************************************************
* MEMORY CARD CONNECTOR *   AMP Connector Catalog No.
*                       *
*                       *
*************************
*  rev 5/13/96
*
*  THE FOLLOWING CARD EDGE SLM IS HEAVILY INFLUNCED BY THE
*  CARD EDGE PADS. THE MODEL VALUES USED HEREIN ASSUME THERE
*  IS NO GROUND PLANE UNDER THE PADS.
*
*  THE FOLLOWING RLC MODELS ARE APPROPRIATE
*  FOR EDGE SPEEDS OF 1NS OR SLOWER
*
****************** RLC MODELS ********************
*SRC=MCM;MCM;Connectors;Card-Edge;Memory Card, Median
*SYM=ZPSLM
.SUBCKT MCM 1  2   3
*             IN*OUT*REF
R1 1 4 0.006
L4 4 5 4.3NH
C5 5 3 1.0PF
L5 5 6 4.3NH
R6 6 2 0.006
.ENDS  MCM
***********
*SRC=MCA;MCA;Connectors;Card-Edge;Memory Card, Row A
*SYM=ZPSLM
.SUBCKT MCA 1  2   3
*             IN*OUT*REF
R1 1 4 0.006
L4 4 5 3.5NH
C5 5 3 0.9PF
L5 5 6 3.5NH
R6 6 2 0.006
.ENDS  MCA
***********
*SRC=MCB;MCB;Connectors;Card-Edge;Memory Card, Row B
*SYM=ZPSLM
.SUBCKT MCB 1  2   3
*             IN*OUT*REF
R1 1 4 0.006
L4 4 5 3.8NH
C5 5 3 0.9PF
L5 5 6 3.8NH
R6 6 2 0.006
.ENDS  MCB
***********
*SRC=MCC;MCC;Connectors;Card-Edge;Memory Card, Row C
*SYM=ZPSLM
.SUBCKT MCC 1  2   3
*             IN*OUT*REF
R1 1 4 0.007
L4 4 5 4.6NH
C5 5 3 1.0PF
L5 5 6 4.6NH
R6 6 2 0.007
.ENDS  MCC
***********
*SRC=MCD;MCD;Connectors;Card-Edge;Memory Card, Row D
*SYM=ZPSLM
.SUBCKT MCD 1  2   3
*             IN*OUT*REF
R1 1 4 0.007
L4 4 5 5.2NH
C5 5 3 1.1PF
L5 5 6 5.2NH
R6 6 2 0.007
.ENDS  MCD
***********
*
********** TRANSMISSION LINE MODELS **************
*
***********
*SRC=MCML;MCML;Connectors;Card-Edge;Memory Card, Median
*SYM=ZPSLM
.SUBCKT MCML 1  2   3
*             IN*OUT*REF
R1 1 4 0.013
T4 4 3 2 3 Z0=93 TD=93PS
.ENDS  MCML
************
*SRC=MCAL;MCAL;Connectors;Card-Edge;Memory Card, Row A
*SYM=ZPSLM
.SUBCKT MCAL 1  2   3
*             IN*OUT*REF
R1 1 4 0.011
T4 4 3 2 3 Z0=88 TD=81PS
.ENDS  MCAL
************
*SRC=MCBL;MCBL;Connectors;Card-Edge;Memory Card, Row B
*SYM=ZPSLM
.SUBCKT MCBL 1  2   3
*             IN*OUT*REF
R1 1 4 0.012
T4 4 3 2 3 Z0=90 TD=87PS
.ENDS  MCBL
************
*SRC=MCCL;MCCL;Connectors;Card-Edge;Memory Card, Row C
*SYM=ZPSLM
.SUBCKT MCCL 1  2   3
*             IN*OUT*REF
R1 1 4 0.013
T4 4 3 2 3 Z0=94 TD=98PS
.ENDS  MCCL
************
*SRC=MCDL;MCDL;Connectors;Card-Edge;Memory Card, Row D
*SYM=ZPSLM
.SUBCKT MCDL 1  2   3
*             IN*OUT*REF
R1 1 4 0.014
T4 4 3 2 3 Z0=99 TD=104PS
.ENDS  MCDL
************
*
*********************************************************
*                           *   AMP Connector Catalog No.
* STANDARD EDGE, EISA       *           82619
*                           *
*****************************
*  rev 5/13/96
*
*  THE FOLLOWING CARD EDGE SLM IS HEAVILY INFLUNCED BY THE
*  CARD EDGE PADS. THE PAD VALUES INCLUDED ARE DERIVED FROM
*  STANDARD PAD DIMENSIONS AND AN ASSUMPTION OF A GROUND
*  PLANE LOCATED 0.013 INCH UNDER THE PADS IN FR4 WITH Er=4.7
*
*  THE FOLLOWING RLC MODELS ARE APPROPRIATE
*  FOR EDGE SPEEDS OF 1NS OR SLOWER
*
****************** RLC MODELS ********************
*
************
*SRC=SEME;SEME;Connectors;Card-Edge;Standard, Mean
*SYM=ZPSLM
.SUBCKT SEME   1  2   3
*             IN*OUT*REF
** load card__|  |
** mother board__|
* pad elements
R1 1 4 0.001
C4 4 3 1.0PF
L4 4 5 2.7NH
* pad stub
C5 5 3 1.2PF
* connector elements
L5 5 6 3.2NH
C6 6 3 1.1PF
L6 6 7 3.2NH
R7 7 2 0.007
*
.ENDS SEME
***********
*SRC=SEA;SEA;Connectors;Card-Edge;Standard, Row A
*SYM=ZPSLM
.SUBCKT SEA   1  2   3
*             IN*OUT*REF
** load card__|  |
** mother board__|
* pad elements
R1 1 4 0.001
C4 4 3 0.6PF
L4 4 5 1.6NH
* pad stub
C5 5 3 1.6PF
* connector elements
L5 5 6 3.5NH
C6 6 3 1.1PF
L6 6 7 3.5NH
R7 7 2 0.007
*
.ENDS SEA
***********
*SRC=SEE;SEE;Connectors;Card-Edge;Standard, Row E
*SYM=ZPSLM
.SUBCKT SEE   1  2   3
*             IN*OUT*REF
** load card__|  |
** mother board__|
* pad elements
R1 1 4 0.001
C4 4 3 1.3PF
L4 4 5 3.7NH
* pad stub
C5 5 3 0.7PF
* connector elements
L5 5 6 2.8NH
C6 6 3 1.1PF
L6 6 7 2.8NH
R7 7 2 0.007
*
.ENDS SEE
***********
*SRC=SEB;SEB;Connectors;Card-Edge;Standard, Row B
*SYM=ZPSLM
.SUBCKT SEB   1  2   3
*             IN*OUT*REF
** load card__|  |
** mother board__|
* pad elements
R1 1 4 0.001
C4 4 3 0.6PF
L4 4 5 1.6NH
* pad stub
C5 5 3 1.6PF
* connector elements
L5 5 6 3.7NH
C6 6 3 1.1PF
L6 6 7 3.7NH
R7 7 2 0.007
*
.ENDS SEB
***********
*SRC=SEF;SEF;Connectors;Card-Edge;Standard, Row F
*SYM=ZPSLM
.SUBCKT SEF   1  2   3
*             IN*OUT*REF
** load card__|  |
** mother board__|
* pad elements
R1 1 4 0.001
C4 4 3 1.3PF
L4 4 5 3.7NH
* pad stub
C5 5 3 0.7PF
* connector elements
L5 5 6 2.6NH
C6 6 3 1.1PF
L6 6 7 2.6NH
R7 7 2 0.007
*
.ENDS SEF
***********
*SRC=SEM;SEM;Connectors;Card-Edge;Standard, Row M
*SYM=ZPSLM
.SUBCKT SEM   1  2   3
*             IN*OUT*REF
** load card__|  |
** mother board__|
* pad elements
R1 1 4 0.001
C4 4 3 1.0PF
L4 4 5 2.7NH
* pad stub
C5 5 3 1.2PF
* connector elements
L5 5 6 3.2NH
C6 6 3 1.1PF
L6 6 7 3.2NH
R7 7 2 0.007
*
.ENDS SEM
***********
*
********** TRANSMISSION LINE MODELS **************
*
**********
*SRC=SEMEL;SEMEL;Connectors;Card-Edge;Standard, Mean
*SYM=ZPSLM
.SUBCKT SEMEL  1  2   3
*             IN*OUT*REF
** load card__|  |
** mother board__|
R1 1 4 0.008
C4 4 3 1.5PF
T4 4 3 2 3 Z0=72 TD=114PS
.ENDS SEMEL
************
*SRC=SEAL;SEAL;Connectors;Card-Edge;Standard, Row A
*SYM=ZPSLM
.SUBCKT SEAL  1  2   3
*             IN*OUT*REF
** load card__|  |
** mother board__|
R1 1 4 0.008
C4 4 3 2.1PF
T4 4 3 2 3 Z0=80 TD=96PS
.ENDS SEAL
************
*SRC=SEEL;SEEL;Connectors;Card-Edge;Standard, Row E
*SYM=ZPSLM
.SUBCKT SEEL  1  2   3
*             IN*OUT*REF
** load card__|  |
** mother board__|
R1 1 4 0.008
C4 4 3 0.9PF
T4 4 3 2 3 Z0=63 TD=132PS
.ENDS SEEL
************
*SRC=SEBL;SEBL;Connectors;Card-Edge;Standard, Row B
*SYM=ZPSLM
.SUBCKT SEBL  1  2   3
*             IN*OUT*REF
** load card__|  |
** mother board__|
R1 1 4 0.008
C4 4 3 2.1PF
T4 4 3 2 3 Z0=82 TD=98PS
.ENDS SEBL
************
*SRC=SEFL;SEFL;Connectors;Card-Edge;Standard, Row F
*SYM=ZPSLM
.SUBCKT SEFL  1  2   3
*             IN*OUT*REF
** load card__|  |
** mother board__|
R1 1 4 0.008
C4 4 3 0.9PF
T4 4 3 2 3 Z0=61 TD=129PS
.ENDS SEFL
************
*SRC=SEML;SEML;Connectors;Card-Edge;Standard, Row M
*SYM=ZPSLM
.SUBCKT SEML  1  2   3
*             IN*OUT*REF
** load card__|  |
** mother board__|
R1 1 4 0.008
C4 4 3 1.5PF
T4 4 3 2 3 Z0=72 TD=114PS
.ENDS SEML
************
*
*********************************************************
*                           *   AMP Connector Catalog No.
* STANDARD EDGE 050         *           82619
* SHORTING CONNECTOR        *
*****************************
*  rev 5/13/96
*
*  THE FOLLOWING CARD EDGE SLM IS HEAVILY INFLUNCED BY THE
*  CARD EDGE PADS. THE PAD VALUES INCLUDED ARE DERIVED FROM
*  STANDARD PAD DIMENSIONS AND AN ASSUMPTION OF A GROUND
*  PLANE LOCATED 0.013 INCH UNDER THE PADS IN FR4 WITH Er=4.7
*
*  THE FOLLOWING RLC MODELS ARE APPROPRIATE
*  FOR EDGE SPEEDS OF 1NS OR SLOWER
*
****************** RLC MODELS ********************
*
***********
*SRC=SESCO;SESCO;Connectors;Card-Edge;Standard, Open
*SYM=ZPSLM
.SUBCKT SESCO   1  2   3
** load card____|  |
** mother board____|
* PRINTED CIRCUIT CARD INSTALLED
* pad elements
R1 1 4 0.002
C4 4 3 1.0PF
L4 4 5 2.6NH
* connector elements
C6 5 3 1.3PF
L6 5 6 7.2NH
R7 6 2 0.012
*
.ENDS SESCO
***********
*SRC=SESCS;SESCS;Connectors;Card-Edge;Standard, Shorted
*SYM=ZPSLM
.SUBCKT SESCS   1  2   3
* connector elements
* PRINTED CIRCUIT CARD REMOVED AND
* CONTINUOUS GROUND PLANE UNDER CONNECTOR
R4 1 4 0.015
L4 4 5 7.5NH
C5 5 3 1.2PF
L5 5 6 7.5NH
R6 6 2 0.015
*
.ENDS SESCS
***********
*
********** TRANSMISSION LINE MODELS **************
*
**********
*SRC=SESCOL;SESCOL;Connectors;Card-Edge;Standard, Open
*SYM=ZPSLM
.SUBCKT SESCOL  1  2   3
*             IN*OUT*REF
** load card____|  |
** mother board____|
* PRINTED CIRCUIT CARD INSTALLED
R1 1 4 0.002
C4 4 3 1.0PF
T4 4 3 2 3 Z0=87 TD=113PS
.ENDS SESCOL
************
*SRC=SESCSL;SESCSL;Connectors;Card-Edge;Standard, Shorted
*SYM=ZPSLM
.SUBCKT SESCSL  1  2   3
*             IN*OUT*REF
* PRINTED CIRCUIT CARD REMOVED AND
* CONTINUOUS GROUND PLANE UNDER CONNECTOR
R1 1 4 0.029
T4 4 3 2 3 Z0=111 TD=135PS
.ENDS SESCSL
************
